* C:\Users\wzhao\Documents\ee311-team06\Temp_sensing\TempSensing.asc
* Generated by LTspice 24.1.9 for Windows.
Rfixed 5V V_TEMP 1.5k
V1 5V 0 5
B1 R_NTC 0 V={R25*exp(B*(1/(V(TEMP_SIM)+273.15)-1/298.15))}
R1 Vts V_TEMP 1k
C1 Vts 0 100n
X§U1 N011 N010 5V 0 OTP_FAULT LM2903B
R2 5V OTP_FAULT 10k
R3 N004 V_ref 10k
R4 Vvs N004 44k
R5 N006 VOLT_SIM 10k
R6 N006 0 44k
R8 5V OVP_FAULT 10k
X§U4 N008 V_ref 5V 0 OVP_FAULT LM2903B
V3 TEMP_SIM 0 67
B2 V_TEMP 0 I=V(V_TEMP)/(R25*exp(B*(1/(V(TEMP_SIM)+273.15)-1/298.15)))
X§U2 N006 N004 5V 0 Vvs TLC081
V2 VOLT_SIM 0 2.7
R10 N008 0 7.5k
R11 N008 VOLT_SIM 3.3k
V4 V_ref 0 2.5
R7 N003 0 1k
R9 Vis N003 47k
R12 N005 V_ref 47k
R13 N005 CURR_SIM 1k
R14 0 CURR_SIM 10m
R16 5V OCP_FAULT 10k
C2 N007 0 0.1µ
X§U6 N007 Vis 5V 0 OCP_FAULT LM2903B
I1 CURR_SIM 0 3
A1 OCP_FAULT OVP_FAULT OTP_FAULT 0 0 0 HW_FAULT 0 OR Vhigh=5 Vlow=0 Ref=2.5
R15 Vts N010 47k
R17 N010 0 47k
R20 5V N011 33K
R21 N011 P001 10K
R22 P001 0 1K
R23 5V N007 120k
R24 N007 0 10k
X§U3 N005 N003 5V 0 Vis level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.param R25 = 10k B=4300
* Showing Resistances at different temperature
* Temperature Resistance Voltage\n25          10k        4.35V\n65          1.81k      2.73V\n70          1.51k      2.51V\n85          0.893k     1.87V
* V_TEMP = 5 * (Rntc/10k+Rntc)\nRntc = {R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
* cut off freq ~910Hz\ntime constant ~175us, 5 time constant ~0.88ms\nTermocoolnig time constant ~20s, 0.88ms << 20s, so valid cutoff
.inc TLC081.mod
.inc lm393.lib
* TEMPERATURE SENSING CCT
* VOLTAGE SENSING CCT
.tran 0 20m 0 10u
* Feed this to MCU for ADC Sampling\nAmplified signal to increase ADC resolution
* OVP Detection
* OTP Detection
* CURRENT SENSING CCT
* Feed this to MCU for ADC Sampling\nAmplified signal to increase ADC resolution
* OCP Detection
* PROTECTION CCT
.lib UniversalOpAmp1.lib
.backanno
.end
