* C:\Users\wzhao\Documents\ee311-team06\Temp_sensing\TempSensing.asc
* Generated by LTspice 24.1.9 for Windows.
Rfixed 5V V_TEMP 1.5k
V1 5V 0 5
B1 R_NTC 0 V={R25*exp(B*(1/(V(TEMP_SIM)+273.15)-1/298.15))}
R1 Vts V_TEMP 1k
C1 Vts 0 100n
X§U1 N015 N014 5V 0 OTP_FAULT LM2903B
R2 5V OTP_FAULT 10k
R3 N004 V_ref 10k
R4 Vvs N004 44k
R5 N006 VOLT_SIM 10k
R6 N006 0 44k
R8 5V OVP_FAULT 10k
X§U4 N009 V_ref 5V 0 OVP_FAULT LM2903B
V3 TEMP_SIM 0 71
B2 V_TEMP 0 I=V(V_TEMP)/(R25*exp(B*(1/(V(TEMP_SIM)+273.15)-1/298.15)))
X§U2 N006 N004 5V 0 Vvs TLC081
V2 VOLT_SIM 0 2.7
R10 N009 0 7.5k
R11 N009 VOLT_SIM 3.3k
V4 V_ref 0 2.5
R7 N003 0 1k
R9 Vis N003 47k
R12 N005 V_ref 47k
R13 N005 CURR_SIM 1k
R14 0 CURR_SIM 10m
R16 5V OCP_FAULT 10k
C2 N007 0 0.1µ
X§U6 N007 Vis 5V 0 OCP_FAULT LM2903B
I1 CURR_SIM 0 2.5
A1 OCP_FAULT OVP_FAULT OTP_FAULT 0 0 0 HW_FAULT 0 OR Vhigh=5 Vlow=0 Ref=2.5
R15 Vts N014 47k
R17 N014 0 47k
R20 5V N015 33K
R21 N015 P001 10K
R22 P001 0 1K
R23 5V N007 120k
R24 N007 0 10k
X§U3 N005 N003 5V 0 Vis level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
A2 HW_FAULT RESET_ENABLE 0 0 0 0 HW_SAFE 0 SRFLOP Vhigh=5 Vlow=0 Ref=2.5
V5 N012 0 0
A3 HW_SAFE FW_SAFE 0 0 0 0 SYSTEM_FAULT 0 OR Vhigh=5 Vlow=0 Ref=2.5
V6 FW_SAFE 0 0
A4 HW_FAULT HW_FAULT 0 0 0 NOT_HW_FAULT 0 0 AND
A5 NOT_HW_FAULT 0 0 N012 0 0 RESET_ENABLE 0 AND
Q1 N016 P002 0 0 NPN
R18 P002 SYSTEM_ENABLE 10k
R19 N016 VOLT_SIM 100k
R25 BOOST_IN 0 1k
X§M1 BOOST_IN N016 VOLT_SIM AO3401A
A6 SYSTEM_FAULT 0 0 0 SYSTEM_FAULT SYSTEM_ENABLE 0 0 AND
.model NPN NPN
.model PNP PNP
.lib C:\Users\wzhao\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R25 = 10k B=4300
* Showing Resistances at different temperature
* Temperature Resistance Voltage\n25          10k        4.35V\n65          1.81k      2.73V\n70          1.51k      2.51V\n85          0.893k     1.87V
* V_TEMP = 5 * (Rntc/10k+Rntc)\nRntc = {R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
* cut off freq ~910Hz\ntime constant ~175us, 5 time constant ~0.88ms\nTermocoolnig time constant ~20s, 0.88ms << 20s, so valid cutoff
.inc TLC081.mod
.inc lm393.lib
* TEMPERATURE SENSING CCT
* VOLTAGE SENSING CCT
.tran 0 20m 0 10u
* Feed this to MCU for ADC Sampling\nAmplified signal to increase ADC resolution
* OVP Detection
* OTP Detection
* CURRENT SENSING CCT
* Feed this to MCU for ADC Sampling\nAmplified signal to increase ADC resolution
* OCP Detection
* PROTECTION CCT
* HARDWARE SAFETY SIGNAL\n1 = NOT SAFE\n0 = SAFE
* RESET\n5V -> R = 1\n0V -> R = 0
* step down voltage (input voltage for LM393 can't go beyond 3V)
* step down voltage \n(input voltage for LM393 can't go beyond 3V)
* FW_SAFE simulation\n1 = NOT SAFE\n0 = SAFE
* Voltage, current, temperature simulation of Supercapacitor
.inc AO3401A.mod
.lib UniversalOpAmp1.lib
.backanno
.end
